US06310099B1
The 5-acetyloxindole (54 g, 308 mmol), acetic acid (400 ml) and palladium on carbon (10%, 5 g) are combined and treated with hydrogen for 14 hours at 55 psi. The catalyst is removed by filtering through a bed of Celite, the filtrate is concentrated under reduced pressure and the residue is treated with ether to give 5-ethyloxindole

reactant | 5-acetyloxindole | 308 mmol, 54 g | C(C)(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5 g | [Pd] | Pd
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 5-ethyloxindole | C(C)C=1C=C2CC(NC2=CC1)=O | C10H11NO
